US09145415B2
To 2-(5-(2-((3-fluorophenyl)amino)-4-hydroxypyrimidin-5-yl)-4-pentyn-1-yl)isoindoline-1,3-dione (J4, 36 mg), phosphorus oxychloride (1 mL) was added at room temperature, and the mixture was stirred at 80° C. for 45 minutes. The reaction mixture was cooled to room temperature, and then poured into ice, and then ethyl acetate was added to the mixture. The organic layer was separated, washed successively with water, saturated aqueous sodium hydrogencarbonate and saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained solid matter was washed with diisopropyl ether, and then dried under reduced pressure to obtain 2-(5-(4-chloro-2-((3-fluorophenyl)amino)pyrimidin-5-yl)-4-pentyn-1-yl)isoindoline-1,3-dione (J5, 21 mg) as pale yellow solid.

reactant | 2-(5-(2-((3-fluorophenyl)amino)-4-hydroxypyrimidin-5-yl)-4-pentyn-1-yl)isoindoline-1,3-dione | 36 mg | FC=1C=C(C=CC1)NC1=NC=C(C(=N1)O)C#CCCCN1C(C2=CC=CC=C2C1=O)=O | C23H17FN4O3
reactant | phosphorus oxychloride | 1 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(5-(4-chloro-2-((3-fluorophenyl)amino)pyrimidin-5-yl)-4-pentyn-1-yl)isoindoline-1,3-dione | ClC1=NC(=NC=C1C#CCCCN1C(C2=CC=CC=C2C1=O)=O)NC1=CC(=CC=C1)F | C23H16ClFN4O2
